US07816391B2
4-[4-(N-Cyclohexyl-N-methyl-carbamoyl)-5-propylsulfanyl-pyrazol-1-yl]benzoic acid
Methyl 4-[4-(cyclohexyl-methyl-carbamoyl)-5-propylsulfanyl-pyrazol-1-yl]benzoate (Intermediate#4) (162 mg, 0.39 mmol) was dissolved in methanol (10 mL) and treated at ambient temperature with 2M aqueous sodium hydroxide solution (0.96 mL, 1.95 mmol). The mixture was stirred at ambient for 18 h. Methanol was removed by evaporation under reduced pressure and the clear solution diluted with water (25 ml). 2M HCl was added to pH4 and the mixture extracted with ethyl acetate (2×25 mL). The combined extracts were washed with water (2×10 mL) and brine (10 mL), dried (MgSO4) and evaporated to give the title compound as a white solid foam (150 mg, 96%).

reactant | Methyl 4-[4-(cyclohexyl-methyl-carbamoyl)-5-propylsulfanyl-pyrazol-1-yl]benzoate | 0.39 mmol, 162 mg | C1(CCCCC1)N(C(=O)C=1C=NN(C1SCCC)C1=CC=C(C(=O)OC)C=C1)C | C22H29N3O3S
reactant | sodium hydroxide | 1.95 mmol, 2M, 0.96 mL | [OH-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | 4-[4-(N-Cyclohexyl-N-methyl-carbamoyl)-5-propylsulfanyl-pyrazol-1-yl]benzoic acid | C1(CCCCC1)N(C(=O)C=1C=NN(C1SCCC)C1=CC=C(C(=O)O)C=C1)C | C21H27N3O3S
